US07205314B2
6-[2-(2-Methoxyethoxy)ethoxyl]-2H-isoquinolin-1-one
To 3-{3-[2-(2-methoxyethoxy)ethoxy]phenyl}acrylic acid (10.7 g, 40.4 mmol) was added thionyl chloride (60 mL) and N,N-dimethylformamide (5 mL) and the reaction solution was refluxed under nitrogen atmosphere for 15 h. The reaction solution was dried, concentrated and the resulting oil was taken up in 1,4-dioxane (25 mL) and added dropwise during 15 min to a solution of sodium azide (7.87 g, 121 mmol) in water/dioxane (28 mL, 1:1) at 0° C. The suspension was stirred 30 min at 0° C., after which the precipitate was filtered off and washed with ethyl acetate. The filtrate was extracted with ethyl acetate (3×150 mL) and the combined organic layer was washed with water (75 mL) and brine (75 mL), dried over sodium sulphate and filtered. The azide containing solution volume was reduced in vacuo, diphenyl ether (20 mL) was added and the remaining ethyl acetate was removed in vacuo. The diphenyl ether solution of the azide was added dropwise during 20 min to hot diphenyl ether (65 mL, 230° C.) and the obtained solution was heated 2 h at reflux (˜260° C.) and then left stirring at room temperature over night. Hexane was added to the reaction solution and the product precipitated out as a black oil. The oil was pre-absorbed on silica gel and purified by flash chromatography (solvent gradient:methanol/methylene chloride, 2:98→4:96) giving, after concentration and drying of the appropriate fractions, 3.4 g (32% yield) of the title compound as a yellow solid. MS (AP+) m/z 264 (M++1).

reactant | 3-{3-[2-(2-methoxyethoxy)ethoxy]phenyl}acrylic acid | 40.4 mmol, 10.7 g | COCCOCCOC=1C=C(C=CC1)C=CC(=O)O | C14H18O5
reactant | thionyl chloride | 60 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | sodium azide | 121 mmol, 7.87 g | [N-]=[N+]=[N-].[Na+]
solvent | water dioxane | 28 mL | O.O1CCOCC1
product | 6-[2-(2-Methoxyethoxy)ethoxyl]-2H-isoquinolin-1-one | 3.4 g, 32% yield | COCCOCCOC=1C=C2C=CNC(C2=CC1)=O | C14H17NO4
